US07968563B2
1-[(4-Amino-2-{[methoxy(methyl)amino]methyl}-1H-imidazo[4,5-c]quinolin-1-yl)methyl]cyclobutanol was prepared according to the general methods of Part I of Example 9 using N,O-dimethyl hydroxylamine hydrochloride in lieu of methoxylamine hydrochloride and using 1-{[4-amino-2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclobutanol in lieu of 2-(chloromethyl)-1-isobutyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine hydrochloride. The crude product was purified by HPFC eluting with a gradient of 0-35% CMA in chloroform and then recrystallized from acetonitrile to provide pure product as a white powder, mp 219.0-221.0° C. Anal. Calcd for C18H23N5O2 C, 63.32; H, 6.79; N, 20.51. Found: C, 63.12; H, 6.56; N, 20.16.

reactant | N,O-dimethyl hydroxylamine hydrochloride | Cl.CNOC
reactant | methoxylamine hydrochloride | Cl.O(C)N
reactant | 1-{[4-amino-2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclobutanol | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2(CCC2)O)CCl | C16H17ClN4O
reactant | 2-(chloromethyl)-1-isobutyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine hydrochloride | Cl.ClCC=1N(C2=C(C(=NC(=C2C)C)N)N1)CC(C)C
product | 1-[(4-Amino-2-{[methoxy(methyl)amino]methyl}-1H-imidazo[4,5-c]quinolin-1-yl)methyl]cyclobutanol | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2(CCC2)O)CN(C)OC | C18H23N5O2
